US04120856
A suspension of 9.5 g (0.021 mole) of 7-bromo-5-(2-fluorophenyl)-1,3-dihydro-3-trifluoroacetoxy-2H-1,4-benzodiazepin-2-one in a mixture of 130 ml ethanol and 130 ml aqueous 5% sodium bicarbonate was stirred at 25° for 18 hr. The suspended solid was collected on a filter, washed with water, dried in air, and recrystallized from ethanol to give 4.54 g (62%) 7-bromo-5-(2-fluorophenyl)-1,3-dihydro-3-hydroxy-2H-1,4-benzodiazepin-2-one as colorless crystals: mp 196°-198°; 19F nmr (DMSO-d6) δ -113.5 ppm (m); 1H nmr (DMSO-d6) δ 4.88 ppm (s, 1H), 6.35 ppm (s, OH), 7.0-7.9 ppm (m, 7H).

reactant | 7-bromo-5-(2-fluorophenyl)-1,3-dihydro-3-trifluoroacetoxy-2H-1,4-benzodiazepin-2-one | 0.021 mole, 9.5 g | BrC=1C=CC2=C(C(=NC(C(N2)=O)OC(C(F)(F)F)=O)C2=C(C=CC=C2)F)C1 | C17H9BrF4N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 7-bromo-5-(2-fluorophenyl)-1,3-dihydro-3-hydroxy-2H-1,4-benzodiazepin-2-one | 4.54 g, 62% | BrC=1C=CC2=C(C(=NC(C(N2)=O)O)C2=C(C=CC=C2)F)C1 | C15H10BrFN2O2
